US20010025042A1
Part C: To 1-(tert-Butoxycarbonyl)-5-methoxyindoline (2.0 g) and TMEDA (1.57 mL, 1.3 eq.) in ether (40 mL) at −78° C. was added sec-BuLi (7.4 mL, 1.2 eq.). The reaction was warmed to −40° C. for 2 hours and then cooled to −78° C. 1,2-dibromoethane (2.07 mL, 3 eq.) was added and the reaction stirred for 45 minutes at −78° C. The bath was then removed and the reaction was stirred for 1 hour. The reaction was quenched with water and extracted with ether. The ether was washed with brine, dried over MgSO4, and concentrated. The crude product was chromatographed on silica gel, using hexane/ethyl acetate (19:1) as eluent, affording 1-(tert-butoxycarbonyl)-7-bromo-5-methoxyindoline (1.16 g).

reactant | 1-(tert-Butoxycarbonyl)-5-methoxyindoline | 2.0 g | C(C)(C)(C)OC(=O)N1CCC2=CC(=CC=C12)OC | C14H19NO3
reactant | TMEDA | 1.57 mL, 1.3 eq. | CN(C)CCN(C)C | C6H16N2
reactant | sec-BuLi | 7.4 mL, 1.2 eq. | [Li]C(C)CC
reactant | 1,2-dibromoethane | 2.07 mL, 3 eq. | BrCCBr | C2H4Br2
solvent | ether | 40 mL | CCOCC | C4H10O
product | 1-(tert-butoxycarbonyl)-7-bromo-5-methoxyindoline | 1.16 g | C(C)(C)(C)OC(=O)N1CCC2=CC(=CC(=C12)Br)OC | C14H18BrNO3
